US08865911B2
Diethyl 2-(5-bromo-3-chloropyridin-2-yl)malonate
Diethyl malonate (0.87 mL, 5.7 mmol) was added dropwise to a suspension of NaH (55% in mineral oil, 0.27 g, 6.2 mmol) in DMF (6 mL) at 0° C. The ice-bath was removed and the mixture was stirred under N2 at r.t. for 20 min. 5-Bromo-2,3-dichloropyridine (1.0 g, 4.4 mmol) was added, and the mixture was stirred at 120° C. overnight. The mixture was allowed to cool and was then partitioned between water containing NaCl and EtOAc. The organic phase was dried (MgSO4) and evaporated to give a crude product which was purified by flash chromatography (25 g SiO2, heptane/EtOAc gradient) affording the title compound (0.8 g, 2 mmol, 52% yield) containing a residue of unreacted malonic ester. MS (ES+) m/z 350 [M+H]+. A part of this material was used as such in the subsequent step.

reactant | Diethyl malonate | 5.7 mmol, 0.87 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 6.2 mmol, 0.27 g | [H-].[Na+]
reactant | 5-Bromo-2,3-dichloropyridine | 4.4 mmol, 1.0 g | BrC=1C=C(C(=NC1)Cl)Cl | C5H2BrCl2N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-(5-bromo-3-chloropyridin-2-yl)malonate | 2 mmol, 0.8 g, 52% yield | BrC=1C=C(C(=NC1)C(C(=O)OCC)C(=O)OCC)Cl | C12H13BrClNO4
